US05015738
7-(Cyclopropylmethyl)-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,2,4]triazolo[4,3-d][1,4]benzodiazepin-8-(7H)-one
1,2-Dihydrobenzo[b]pyrrolo[3,2,1-jk][1,2,4]triazolo[4,3-d][1,4]benzodiazepin-8(7H)-one (5.2 g) was dissolved in dimethylformamide (150 ml). Potassium carbonate (0.5 g) was added, followed by (chloromethyl)cyclopropane (2.1 ml). The mixture was stirred at 95° C. overnight, filtered, and evaporated under reduced presure. The residue was purified by high performance liquid chromatography (1% methanol/dichloromethane) to yield 3.4 g (54.8%) of product. Recrystallization from pentane/ether gave the analytical sample, mp 9920 C.

reactant | 1,2-Dihydrobenzo[b]pyrrolo[3,2,1-jk][1,2,4]triazolo[4,3-d][1,4]benzodiazepin-8(7H)-one | 5.2 g | C1CC=C2C3=C1C=1N(C4=C(N3C=C2)CC(C=C4)=O)C=NN1 | C16H12N4O
reactant | Potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | (chloromethyl)cyclopropane | 2.1 ml | ClCC1CC1 | C4H7Cl
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 7-(Cyclopropylmethyl)-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,2,4]triazolo[4,3-d][1,4]benzodiazepin-8-(7H)-one | 3.4 g, 54.8% | C1(CC1)CC1C(C=CC2=C1N1C3=C(C=4N2C=NN4)CCC=C3C=C1)=O | C20H18N4O
